US09399639B2
Step 1) chloromethyl phenyl carbonate
To a solution of chloromethyl chloroformate (1 g, 7.8 mmol) in DCM (40 mL) was added a mixture of phenol (0.73 g, 7.8 mmol) and pyridine (750 μL, 9.3 mmol) in DCM (10 mL) at −20° C. over 20 min. The reaction was stirred at 0° C. for 4 h, then at rt for another 1 h. The mixture was washed with 1N HCl solution (50 mL), followed by brine (50 mL). The organic phase was dried over anhydrous Na2SO4 and concentrated in vacuo. The residue was purified by a silica gel column chromatography (PE/EtOAc (v/v)=100/1) to give the title compound as colorless oil (847 mg, 58.2%). The title compound was characterized by 1H NMR as shown below:

reactant | chloromethyl chloroformate | 7.8 mmol, 1 g | ClC(=O)OCCl | C2H2Cl2O2
reactant | phenol | 7.8 mmol, 0.73 g | C1(=CC=CC=C1)O | C6H6O
reactant | pyridine | 9.3 mmol, 750 μL | N1=CC=CC=C1 | C5H5N
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | chloromethyl phenyl carbonate | 847 mg, 58.2% | C(OCCl)(OC1=CC=CC=C1)=O | C8H7ClO3
